US06667312B2
Using the general method of Example 1 Part D, N4-(3-chloropropyl)quinoline-3,4-diamine (˜37.6 mmol) was cyclized using triethyl orthopropionate (7.96 g, 45.2 mmol) in the presence of pyridine hydrochloride (0.43 g). The crude product was purified by chromatography (silica gel eluting with 95/5 dichloromethane/methanol) to provide 7.33 g of 1-(3-chloropropyl)-2-ethyl-1H-imidazo[4,5-c]quinoline as a white solid.

reactant | N4-(3-chloropropyl)quinoline-3,4-diamine | ˜37.6 mmol | ClCCCNC1=C(C=NC2=CC=CC=C12)N | C12H14ClN3
reactant | triethyl orthopropionate | 45.2 mmol, 7.96 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | pyridine hydrochloride | 0.43 g | Cl.N1=CC=CC=C1
product | 1-(3-chloropropyl)-2-ethyl-1H-imidazo[4,5-c]quinoline | 7.33 g | ClCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CC | C15H16ClN3
